US07659296B2
H. 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid methyl ester (1.50 g, 3.32 mmol) in MeOH (10 mL) and THF (10 mL) is treated with NaOH (2.0 M, 20.0 mL). The resulting mixture is stirred at RT for 16 h. The mixture is concentrated, acidified with HCl (5 N) until pH˜3, and extracted with EtOAc (100 mL, then 50 mL). The organic layer is dried over Na2SO4, filtered, and concentrated to afford the title compound (1.40 g, 97%). H-NMR (ppm, CDCl3) δ: 8.16 (1H, d, J=1.3 Hz), 8.11 (1H, dd, J=1.3, 8.4 Hz), 7.78 (1H, d, J=8.4 Hz), 7.02 (1H, d, J=1.8 Hz), 6.97 (1H, dd, J=2.2, 8.4 Hz), 6.54 (1H, d, J=8.4 Hz), 4.85 (2H, s), 2.40 (2H, q, J=7.5 Hz), 2.30 (2H, q, J=7.5 Hz), 2.26 (3H, s), 1.25 (9H, s), 0.77 (6H, t, J=7.5 Hz). MS (ES) m/e: 438.2 (M+1), 436.2 (M−1).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid methyl ester | 3.32 mmol, 1.50 g | COC(=O)C1=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C=C1 | C27H33NO5
reactant | NaOH | 2.0 M, 20.0 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-6-carboxylic acid | 1.40 g, 97% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=CC(=C2)C(=O)O)C)=O)(C)C | C26H31NO5
